US05187156
To an ice-cooled solution of Boc-His-D-Trp(CHO)-Phe-NMeBzl (0.70 g) and anisole (0.7 ml) in methylene chloride (5 ml) was added 4N-HCl/DOX (5 ml). The solution was stirred for an hour at room temperature. After evaporation, the residue was pulverized with diisopropyl ether, filtered, washed with diisopropyl ether and dried to give 2HCl.H-His-D-Trp(CHO)-Phe-NMeBzl. The powder (0.70 g) was dissolved in a mixture of methylene chloride (10 ml) and DMF (1 ml) and ice-cooled. To the solution, triethylamine (0.41 ml) and Ac2O (0.09 ml) were added. After stirring for an hour and twenty minutes, triethylamine (0.12 ml) and Ac2O (0.09 ml) were added and stirred for additional half an hour. The mixture was evaporated and the residue was extracted with ethyl acetate. The organic layer was washed successively with water, 2% hydrochloric acid, water and saturated sodium chloride solution, and dried over magnesium sulfate. After evaporation, the residue was dissolved in DMF (10 ml). To the solution, pyridinium chloride (1.16 g) was added and the mixture was stirred for an hour. After evaporation the residue was solidified with water, filtered, washed with water, and dried. The powder was subjected to column chromatography on silica gel (20 g) and eluted with a mixture of chloroform and methanol (9:1). The fractions containing the object compound were combined and evaporated. The residue was pulverized with diethyl ether and filtered. The powder was dissolved in a mixture of chloroform and methanol. To the solution was added 4N-HCl/DOX (0.25 ml) and evaporated. The residue was pulverized with diethyl ether, filtered, washed with diethyl ether and dried to give Ac-His-D-Trp(CHO)-Phe-NMeBzl.HCl (0.31 g).

reactant | Boc-His-D-Trp(CHO)-Phe-NMeBzl | 0.70 g | N([C@@H](CC1=CNC=N1)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N(C)CC1=CC=CC=C1)C(=O)OC(C)(C)C | C40H45N7O6
reactant | anisole | 0.7 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | HCl | Cl | ClH
reactant | H-His-D-Trp(CHO)-Phe-NMeBzl | N[C@@H](CC1=CNC=N1)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N(C)CC1=CC=CC=C1 | C35H37N7O4
reactant | Ac2O | 0.09 ml | CC(=O)OC(=O)C | C4H6O3
reactant | Ac2O | 0.09 ml | CC(=O)OC(=O)C | C4H6O3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.12 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.41 ml | C(C)N(CC)CC | C6H15N
product | Ac-His-D-Trp(CHO)-Phe-NMeBzl.HCl | 0.31 g | N([C@@H](CC1=CNC=N1)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N(C)CC1=CC=CC=C1)C(=O)C.Cl | InChI=1S/C37H39N7O5.ClH/c1-25(46)40-32(19-29-20-38-23-39-29)36(48)41-31(18-28-22-44(24-45)34-16-10-9-15-30(28)34)35(47)42-33(17-26-11-5-3-6-12-26)37(49)43(2)21-27-13-7-4-8-14-27;/h3-16,20,22-24,31-33H,17-19,21H2,1-2H3,(H,38,39)(H,40,46)(H,41,48)(H,42,47);1H/t31-,32+,33+;/m1./s1
